US09290468B2
Step 2: benzyl 5-(benzyloxy)-2-((2-chlorophenyl)amino)-3,4-difluorobenzoate
To a solution of 5-(benzyloxy)-2-((2-chlorophenyl)amino)-3,4-difluorobenzoic acid (23.80 g, 61.06 mmol) in DMF (200 mL) was added potassium bicarbonate (9.16 g, 91.6 mmol) followed by benzyl bromide (8.0 mL, 67.37 mmol). The mixture was stirred for 5 h at room temperature and water (300 mL) was added. The solution was extracted with ethyl acetate (100 mL×3). The combined organic extracts were washed with water (200 mL×3) and brine (200 mL) sequentially, dried over Na2SO4, filtered and concentrated in vacuo. After purification by column chromatography on silica gel (petroleum ether/ethyl acetate, 50:1, v/v), the corresponding product was obtained as white solid (27.82 g, 95% yield). 1H NMR (400 MHz, CDCl3): δ 8.56 (s, 1H), 7.52 (dd, J=8.5, 2.1 Hz, 1H), 7.40 (m, 11H), 7.15 (m, 1H), 6.88 (m, 1H), 6.74 (m, 1H), 5.34 (s, 2H), 5.16 (s, 2H).

reactant | 5-(benzyloxy)-2-((2-chlorophenyl)amino)-3,4-difluorobenzoic acid | 61.06 mmol, 23.80 g | C(C1=CC=CC=C1)OC=1C(=C(C(=C(C(=O)O)C1)NC1=C(C=CC=C1)Cl)F)F | C20H14ClF2NO3
reactant | potassium bicarbonate | 91.6 mmol, 9.16 g | C([O-])(O)=O.[K+]
reactant | benzyl bromide | 67.37 mmol, 8.0 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 300 mL | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | benzyl 5-(benzyloxy)-2-((2-chlorophenyl)amino)-3,4-difluorobenzoate | 27.82 g, 95% yield | C(C1=CC=CC=C1)OC=1C(=C(C(=C(C(=O)OCC2=CC=CC=C2)C1)NC1=C(C=CC=C1)Cl)F)F | C27H20ClF2NO3
